US04148997
p-Sulfomethylphenylacetyl Chloride
To a solution of thionyl chloride in 20 ml of anhydrous ether is added p-sulfomethylphenylacetic acid. The mixture is stirred at room temperature until gas evolution ceases. Two drops of dimethylformamide is added, and the resulting mixture is stirred at 40° C. for 2.5 hours. The title compound is obtained after filtration and evaporation of the reaction mixture. The infrared spectrum of the product shows a characteristic acid chloride absorption at 1830 cm-1 whereas the starting acid shows a carbonyl absorption at 1740 cm-1.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | p-sulfomethylphenylacetic acid | S(=O)(=O)(O)CC1=CC=C(C=C1)CC(=O)O | C9H10O5S
solvent | ether | 20 ml | CCOCC | C4H10O
catalyst | dimethylformamide | Two drops | CN(C=O)C | C3H7NO
product | p-Sulfomethylphenylacetyl Chloride | S(=O)(=O)(O)CC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO4S
